US06403595B1
4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-(piperidin-4-ylmethyl)-2-piperazinone Dihydrochloride
To 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone (420 mg) was added 4N hydrochloric acid in ethyl acetate (15 ml) and methanol (4 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated to give amorphous of the title compound (442 mg).

reactant | 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-2-piperazinone | 420 mg | N1(C=NC=C1)CC1=CC=C(C=C1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C25H35N5O5S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 4 ml | CO | CH4O
product | 4-[4-(1H-imidazol-1-ylmethyl)benzenesulfonyl]-1-(piperidin-4-ylmethyl)-2-piperazinone Dihydrochloride | 442 mg | Cl.Cl.N1(C=NC=C1)CC1=CC=C(C=C1)S(=O)(=O)N1CC(N(CC1)CC1CCNCC1)=O | InChI=1S/C20H27N5O3S.2ClH/c26-20-15-25(12-11-24(20)14-18-5-7-21-8-6-18)29(27,28)19-3-1-17(2-4-19)13-23-10-9-22-16-23;;/h1-4,9-10,16,18,21H,5-8,11-15H2;2*1H
